US05780480
Ethyl isonipecotate (6.0 g, 38.66 mmol), 4-chloropyridine hydrochloride (5.9 g, 38.66 mmol) and N-methylmorpholine (9.3 mL, 85.0 mmol) were dissolved in N-methylpyrrolidinone (50 μL) and the resulting solution heated at 100° for 48 h. The solution was concentrated in vacuo and the residue dissolved in ethyl acetate (200 mL) and washed with water and brine (2×100 mL), then dried (Na2SO4) and evaporated. The resulting residue was purified by flash chromatography (5%MeOH/CH2 Cl2) to afford ethyl 4-(pyridyl)piperidin-4-yl-carboxylate as a crystalline solid.

reactant | Ethyl isonipecotate | 38.66 mmol, 6.0 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 4-chloropyridine hydrochloride | 38.66 mmol, 5.9 g | Cl.ClC1=CC=NC=C1
reactant | N-methylmorpholine | 85.0 mmol, 9.3 mL | CN1CCOCC1 | C5H11NO
solvent | N-methylpyrrolidinone | 50 μL | CN1C(CCC1)=O | C5H9NO
product | ethyl 4-(pyridyl)piperidin-4-yl-carboxylate | N1=C(C=CC=C1)C1(CCNCC1)C(=O)OCC | C13H18N2O2
